US08389524B2
(c) Ethyl[(4-amino-2-chloro-5-pyrimidinyl)thio]acetate
A solution of ethyl[(2,4-dichloro-5-pyrimidinyl)thio]acetate (2.0 g, 7.49 mmol) in DMF (75 ml) was treated with ammonia in isopropanol (7.49 ml, 14.97 mmol) in a pressure tube. The tube was capped, and the reaction was stirred at ambient temperature. Upon completion, the solution was concentrated under reduced pressure and pumped on to remove any residual DMF. The crude material was chromatographed using a gradient of 0-10% acetone/chloroform. The product contained a small amount of cyclized material (which is the product of the next step). The product was isolated as a light yellow solid.

reactant | ethyl[(2,4-dichloro-5-pyrimidinyl)thio]acetate | 7.49 mmol, 2.0 g | C(C)OC(CSC=1C(=NC(=NC1)Cl)Cl)=O | C8H8Cl2N2O2S
reactant | ammonia | N | H3N
reactant | isopropanol | 14.97 mmol, 7.49 ml | C(C)(C)O | C3H8O
solvent | DMF | 75 ml | CN(C)C=O | C3H7NO
product | Ethyl[(4-amino-2-chloro-5-pyrimidinyl)thio]acetate | C(C)OC(CSC=1C(=NC(=NC1)Cl)N)=O | C8H10ClN3O2S
